US07893060B2
6-Benzyl-2-methyl-4H-thiazolo[4,5-d]pyrimidine-5,7-dione
To a solution of 2-methyl-4-(trifluoromethanesulfonyloxy)thiazole-5-carboxylic acid ethyl ester (6.38 g, 20 mmol) in dioxane (80 mL) under an atmosphere of N2 was added cesium carbonate (13.0 g, 40 mmol), benzylurea (3.3 g, 22 mmol), Xantphos (0.58 g, 0.1 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.46 g, 0.5 mmol). The resulting mixture was stirred at 60° C. for 18 h, cooled to RT, then poured onto water (500 mL) and stirred for 15 min. The resulting mixture was filtered, the filtrate collected and reduced in volume in vacuo to approximately one-third. The resultant precipitate was collected by filtration, washed with ether and dried in vacuo to give the title compound as a white solid (3.9 g, 72%).

reactant | 2-methyl-4-(trifluoromethanesulfonyloxy)thiazole-5-carboxylic acid ethyl ester | 20 mmol, 6.38 g | C(C)OC(=O)C1=C(N=C(S1)C)OS(=O)(=O)C(F)(F)F | C8H8F3NO5S2
reactant | cesium carbonate | 40 mmol, 13.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzylurea | 22 mmol, 3.3 g | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.5 mmol, 0.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.1 mmol, 0.58 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 6-Benzyl-2-methyl-4H-thiazolo[4,5-d]pyrimidine-5,7-dione | 3.9 g, 72% | C(C1=CC=CC=C1)N1C(NC2=C(C1=O)SC(=N2)C)=O | C13H11N3O2S
